US07560558B2
7-Methoxy-4-(2-methyl-quinolin-3-yloxy)-quinolin-6-ol (25 mg) was dissolved in N,N-dimethylformamide (1 ml) to prepare a solution. 1-Bromo-2-chloroethane (54 mg) and potassium carbonate (52 mg) were added to the solution, and the mixture was stirred at room temperature overnight. Water was added to the reaction solution, and the mixture was extracted with chloroform. The chloroform layer was washed with water and was then dried over anhydrous magnesium sulfate. The solvent was removed by distillation under the reduced pressure. The residue was purified by thin layer chromatography using chloroform-methanol to give 6-(2-chloroethoxy)-7-methoxy-4-(2-methyl-quinolin-3-yloxy)-quinoline (24 mg, yield 79%).

reactant | 7-Methoxy-4-(2-methyl-quinolin-3-yloxy)-quinolin-6-ol | 25 mg | COC1=C(C=C2C(=CC=NC2=C1)OC=1C(=NC2=CC=CC=C2C1)C)O | C20H16N2O3
reactant | 1-Bromo-2-chloroethane | 54 mg | BrCCCl | C2H4BrCl
reactant | potassium carbonate | 52 mg | C([O-])([O-])=O.[K+].[K+]
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | 6-(2-chloroethoxy)-7-methoxy-4-(2-methyl-quinolin-3-yloxy)-quinoline | 24 mg, yield 79% | ClCCOC=1C=C2C(=CC=NC2=CC1OC)OC=1C(=NC2=CC=CC=C2C1)C | C22H19ClN2O3
